US07482462B2
e. 4-[(3,5-bis-trifluoromethyl-benzoylsulfamoyl)-methyl]-piperidine-1-carboxylic acid tert-butyl ester
A solution of 880 mg of 4-[(3,5-bis-trifluoromethyl-benzoylsulfamoyl)-methylene]-piperidine-1carboxylic acid tert.-butyl ester in 100 ml of MeOH is hydrogenated (10% Pd/C as a catalyst). From the mixture obtained the catalyst is filtrated off and solvent is evaporated.

reactant | 4-[(3,5-bis-trifluoromethyl-benzoylsulfamoyl)-methylene]-piperidine-1carboxylic acid tert.-butyl ester | 880 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)=CS(NC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)(=O)=O | C20H22F6N2O5S
solvent | MeOH | 100 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 4-[(3,5-bis-trifluoromethyl-benzoylsulfamoyl)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CS(NC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)(=O)=O | C20H24F6N2O5S
